US06150351
To a solution of benzhydryl 7β-[2-(2-formylaminothiazol-4-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylate (1.2 g) in a mixture of dichloromethane (3.6 ml) and anisole (1.2 ml) was added trifluoroacetic acid (2.4 ml) under ice-cooling. The mixture was stirred at the same temperature for 45 minutes. The reaction mixture was poured into diisopropyl ether (80 ml) and the resulting precipitate was collected by filtration and dried in vacuo. The precipitate was dissolved in a mixture of aqueous sodium hydrogen carbonate (40 ml), tetrahydrofuran (20 ml) and ethyl acetate (40 ml). To the separated aqueous solution were added ethyl acetate (40 ml) and tetrahydrofuran (20 ml). The mixture was adjusted to pH 1.8 with 1N-hydrochloric acid. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with ethyl acetate to give 7β-[2-(2-formylaminothiazol-4-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid (490 mg).

reactant | benzhydryl 7β-[2-(2-formylaminothiazol-4-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylate | 1.2 g | C(=O)NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H24N6O4S4
reactant | trifluoroacetic acid | 2.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 80 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 3.6 ml | ClCCl | CH2Cl2
solvent | anisole | 1.2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-[2-(2-formylaminothiazol-4-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid | 490 mg | C(=O)NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)C)C(=S)O)C1=O | C16H14N6O4S4
